US03948996
To 2.04 g. (10 mmol.) of 7-methylthio-3,7-dimethyloctan-1-ol in 25 ml. of freshly distilled dimethylsulfoxide, under nitrogen at 20°, is added via syringe 11.2 ml. (80 mmol.) of triethylamine while stirring vigorously. Sulfur trioxide-2 pyridine complex (10.28 g., 64 mmol.) in dimethylsulfoxide (50 ml.) is added slowly to the mixture via dropping funnel under the same conditions. After addition is complete, the reaction mixture is stirred for 5 minutes and poured into cold water. Hexane is added and the organic layer separated, washed well with water and dried over calcium sulfate. Evaporation of the solvent at reduced pressure affords 7-methylthio-3,7-dimethyloctan-1-al.

reactant | 7-methylthio-3,7-dimethyloctan-1-ol | 10 mmol | CSC(CCCC(CCO)C)(C)C | C11H24OS
reactant | triethylamine | 80 mmol | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | Hexane | CCCCCC | C6H14
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 7-methylthio-3,7-dimethyloctan-1-al | CSC(CCCC(CC=O)C)(C)C | C11H22OS
